US07214673B2
(S)-2-(2-Pyridin-3-yl-ethyl)-piperazine
Dissolve (S)-1,4-dibenzyl-2-(2-pyridin-3-yl-ethyl)-piperazine (1.6 g, 4.31 mmol) in ethanol (30 mL). Add ammonium formate (1.63 g, 25.8 mmol) and palladium (240 mg, 5 wt. % on carbon) and heat to reflux. After 3 hours 30 minutes, add additional ammonium formate (1.63 g, 25.8 mmol). After 3 hours, filter the palladium on carbon and concentrate the filtrate. Slurry the residue in water and methylene chloride, basify with 5N NaOH, and extract with methylene chloride and chloroform-isopropanol (3:1 mixture). Dry the extracts over sodium sulfate, filter and concentrate the filtrate. Purify by silica gel chromatography using 7N ammonia in methanol-methylene chloride (2.5%–15%) as the eluent to give (261 mg, 32%) of the title compound: mp 104–110° C.; mass spectrum (ion spray): m/z=192 (M+1). 1H NMR (DMSO-d6, D2O): δ8.42 (d, 1H), 8.38 (dd, 1H), 7.63 (dt, 1H), 7.31 (dd, 1H), 2.38–2.83 (m, 8H), 2.18 (dd, 1H), 1.50 (dd, 2H).

reactant | (S)-1,4-dibenzyl-2-(2-pyridin-3-yl-ethyl)-piperazine | 4.31 mmol, 1.6 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC=1C=NC=CC1 | C25H29N3
reactant | ammonium formate | 25.8 mmol, 1.63 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 25.8 mmol, 1.63 g | C(=O)[O-].[NH4+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium | 240 mg | [Pd] | Pd
product | (S)-2-(2-Pyridin-3-yl-ethyl)-piperazine | 261 mg, 32% | N1=CC(=CC=C1)CC[C@@H]1NCCNC1 | C11H17N3
